US08022062B2
6-[3-(3-tert-Butyl-[1,2,4]oxadiazol-5-yl)-propylthio]-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 387, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 5-(3-bromopropyl)-3-tert-butyl-[1,2,4]oxadiazole to give, after deprotection using a method similar to the General Procedure 1-4, the title compound as a white solid. MS (APCI+) m/z 380 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 5-(3-bromopropyl)-3-tert-butyl-[1,2,4]oxadiazole | BrCCCC1=NC(=NO1)C(C)(C)C | C9H15BrN2O
product | 6-[3-(3-tert-Butyl-[1,2,4]oxadiazol-5-yl)-propylthio]-7-chloro-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.C(C)(C)(C)C1=NOC(=N1)CCCSC1=C(C=CC=2CCNCCC21)Cl | InChI=1S/C19H26ClN3OS.ClH/c1-19(2,3)18-22-16(24-23-18)5-4-12-25-17-14-9-11-21-10-8-13(14)6-7-15(17)20;/h6-7,21H,4-5,8-12H2,1-3H3;1H
